US05149705
6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)ethynyl]nicotinic acid
Absolute ethanol was degassed by applying a vacuum while simultaneously bubbling nitrogen through it. A solution of 188 mg (0.5201 mmol) ethyl 6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronapth-2-yl)ethynyl]nicotinoate in 2 ml absolute ethanol was treated with 800 ml of a 1.65M (1.32 mmol) solution of potassium hydroxide in ethanol and water. The mixture was stirred at room temperature for 18 hours and then the solvent removed in vacuo. The residue was dissolved in water and extracted with 50 ml ether, which was discarded. The aqueous layer was then acidified with glacial acetic acid and extracted with 4×50 ml ether. The ether extracts were combined, washed with water, saturated NaCl solution and then dried (MgSO4). Solvent was removed in vacuo to give the title compound as a pale yellow solid. PMR (CDCl3): δ1.31 (12H, s), 1.71(4H, s), 7.34 (1H, d, J~7.8 Hz), 7.40 (1H, d, J~7.8 Hz), 7.62 (1H, s), 8.39 (1H, dd, J~7.3 Hz, 2.1 Hz), 9.33 (1H, d, J~2.1 Hz).

reactant | ethyl 6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronapth-2-yl)ethynyl]nicotinoate | 0.5201 mmol, 188 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=NC=C(C(=O)OCC)C=C1)C | C24H27NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)ethynyl]nicotinic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=NC=C(C(=O)O)C=C1)C | C22H23NO2
